US05312828
(i) methyl-3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-3-hydroxy-2-(3,4-methylenedioxyphenyl)methylpropanoate
In tetrahydrofuran (20 mL) was placed diisopropylamine (1.41 mL, 10.0 mmol). The mixture was cooled to 0° C. under argon and in n-butyl lithium (4 mL of 2.5 M in toluene, 10.08 mmol) was added. The reaction was stirred at 0° C. for 0.5 hour, then cooled to -78° C. A solution of methyl 3-(3,4-methylenedioxyphenyl)propanoate (2 g, 9.6 mmol) (prepared by reaction of 3,4-methylenedioxybenzaldehyde with trimethyl phosphonoacetate in the presence of sodium hydride in ethylene glycol dimethyl ether, followed by catalytic hydrogenation with 10% palladium on carbon at 3 atmospheres of hydrogen in an ethyl acetate solution) in tetrahydrofuran (15 mL) was added, and the mixture was stirred at -78° C. for 1 hour. A solution of 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-carboxaldehyde (2.49 g, 9 mmol) in tetrahydrofuran was added, and the mixture was stirred for 30 minutes at -78° C. The reaction was quenched with ammonium chloride solution, and the product was extracted into ethyl acetate. The concentrated product was flash chromatographed with 6:4 ethyl acetate/hexane to yield 1.33 g (31%) of the title compound as an oil.

reactant | diisopropylamine | 10.0 mmol, 1.41 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-butyl lithium | 10.08 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | methyl 3-(3,4-methylenedioxyphenyl)propanoate | 9.6 mmol, 2 g | C1OC=2C=C(C=CC2O1)CCC(=O)OC | C11H12O4
reactant | 3,4-methylenedioxybenzaldehyde | C1OC=2C=C(C=O)C=CC2O1 | C8H6O3
reactant | trimethyl phosphonoacetate | COC(=O)CP(=O)(OC)OC | C5H11O5P
reactant | sodium hydride | [H-].[Na+]
reactant | hydrogen | [H][H] | H2
reactant | 2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-carboxaldehyde | 9 mmol, 2.49 g | C(CCC)C=1N(C(=CN1)C=O)CC1=C(C=CC=C1)Cl | C15H17ClN2O
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | ethylene glycol dimethyl ether | COCCOC | C4H10O2
catalyst | palladium on carbon | [Pd] | Pd
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl-3-[2-n-butyl-1-(2-chlorophenyl)methyl-1H-imidazol-5-yl]-3-hydroxy-2-(3,4-methylenedioxyphenyl)methylpropanoate | 1.33 g, 31% | COC(C(C(O)C1=CN=C(N1CC1=C(C=CC=C1)Cl)CCCC)CC1=CC2=C(C=C1)OCO2)=O | C26H29ClN2O5
